.SUBCKT MC34063AX2 1 2 3 4 5 6 7 8
*exempt 20030227 20395 -30736294
*BY KEHINDE OMOLAYO 2-20-03
*TERMINAL ID
*SWITCH COLLECTOR=1 SWITCH EMITTER=2 TIMING CAPACITOR=3 GND=4
*COMPARATOR INVERTING INPUT=5 VCC=6 IPK SENSE=7 DRIVER COLLECTOR=8
.MODEL DMC34063 D (CJO=2P N=0.05)
.MODEL QSWITCH NPN BF=75 CJC=2P IS=3E-9 RB=1 RC=0.45 RE=0
+ VJC=.75 VJE=.75 VJS=.75
E1 10 0 5 4 1
R1 4 5 10MEG
V1 20 0 PULSE 0 2
E2 11 0 3 4 1
B1 13 0 V=1M/(ABS((27.475-195M*V(12))+(36.002+244M*V(12))*V(9)-
+(302.302+651M*V(12))*V(9)^2)+1F)
E3 12 0 6 4 1
E4 9 0 6 7 1
R2 6 7 10MEG
B2 14 0 V=1M*((-10.765-151M*V(12))+(45.344+864M*V(12))*V(9)-
+(35.99+1.378*V(12))*V(9)^2+(8.341+839M*V(12))*V(9)^3)
B4 15 0 V=V(9)>0.32 ? V(14) : V(13)
C1 19 0 10P
B5 16 0 V= V(20)<1 ? 2 :  V(24)>1 ? 2 : V(19)>1 ? 0 : 2
R3 16 17 150
C2 17 0 10P
B6 18 0 V=V(20)<1 ? 0 : V(24)>1 ? 0 : V(11)<(1.083-1.239*V(29)) ? 2 :
+ V(17)>1 ? 0 : 2
R4 18 19 150
D1 4 3 DMC34063
D2 3 6 DMC34063
C3 11 31 1N
B7 4 36 I=V(17)>1 ? -(224.4U+2.359U*V(12))*0.77 : V(15)*0.77
C5 23 0 10P
B9 21 0 V= V(20)<1 ? 2 : V(17)>1 ? 2 : V(26)>1 ? 0 : 2
R5 27 26 150
C6 26 0 10P
B10 27 0 V=V(20)<1 ? 0 : V(17)>1 ? 0 : V(10)<1.25 ? 2 : V(23)>1 ? 0 : 2
R6 21 23 150
B12 33 0 V=V(11)>(1.148+184.6M*V(29)) ? 2 : 0
R13 33 24 10K
C8 24 0 10P
Q1 8 30 25 QSWITCH
Q2 1 25 2 QSWITCH
R15 25 2 100
D5 2 30 DMC34063
G1 2 30 26 23 5M
R16 2 4 10MEG
R23 31 28 1M
V6 28 0 
V7 36 3 
B13 29 0 V=I(V6)/(I(V7)+866.8M*I(V6))
.ENDS
